### PR TITLE
Whitehead's Lemma

### PR DESCRIPTION
**Pull request by owen-fool**
Proof of Whitehead's lemma for truncated spaces (theorem 8.8.3 in the HoTT book).

### CODE REVIEW

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 1]
```diff
@@ -0,0 +1,447 @@
...
+  variable
+    ℓ : Level
+
+-- lots of easy helper lemmas, some of which are probably duplicating lemmas
+-- proved elsewhere.
+private
+  SetTrunc→PropTrunc : {A : Type ℓ} → ∥ A ∥₂ → ∥ A ∥₁
+  SetTrunc→PropTrunc = sRec (isProp→isSet isPropPropTrunc) ∣_∣₁
+
+  isoPostComp : {A : Type ℓ} {a b c : A} (p : b ≡ c)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:36]: Duplication: `compPathrEquiv` in  Foundations.Path

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 2]
```diff
@@ -0,0 +1,447 @@
...
+    → Iso (a ≡ b) (a ≡ c)
+  Iso.fun (isoPostComp p) = λ r → r ∙ p
+  Iso.inv (isoPostComp p) = λ r → r ∙ (sym p)
+  Iso.rightInv (isoPostComp p) =
+    λ r → (sym (assoc r (sym p) p)) ∙ cong (r ∙_) (lCancel p) ∙ sym (rUnit r)
+  Iso.leftInv (isoPostComp p) =
+    λ r → (sym (assoc r p (sym p))) ∙ cong (r ∙_) (rCancel p) ∙ sym (rUnit r)
+
+  isoPostComp≃∙ : {A : Type ℓ} {a b c : A} {q : a ≡ b} (p : b ≡ c)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:45]: This should be in the lib already (but isn't). I suggest adding it to the end of Foundations.Pointed.Properties and calling it `compPathrEquiv∙` just for the sake of consistency w other things in the lib.

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 3]
```diff
@@ -0,0 +1,447 @@
...
+    → ((a ≡ b) , q) ≃∙ ((a ≡ c) , q ∙ p)
+  fst (isoPostComp≃∙ p) = isoToEquiv (isoPostComp p)
+  snd (isoPostComp≃∙ p) = refl
+
+  isoPreComp : {A : Type ℓ} {a b c : A} (p : a ≡ b)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:50]: Duplication: `compPathlEquiv` in Foundations.Path

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 4]
```diff
@@ -0,0 +1,447 @@
...
+    → Iso (b ≡ c) (a ≡ c)
+  Iso.fun (isoPreComp p) = λ r → p ∙ r
+  Iso.inv (isoPreComp p) = λ r → (sym p) ∙ r
+  Iso.rightInv (isoPreComp p) =
+    λ r → assoc p (sym p) r ∙ cong (_∙ r) (rCancel p) ∙ sym (lUnit r)
+  Iso.leftInv (isoPreComp p) =
+    λ r → assoc (sym p) p r ∙ cong (_∙ r) (lCancel p) ∙ sym (lUnit r)
+
+  isoPreComp≃∙ : {A : Type ℓ} {a b c : A} {q : b ≡ c} (p : a ≡ b)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:59]: Same as `isoPostComp≃∙`: should probably be moved to Foundations.Pointed.Properties and get a name change

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 5]
```diff
@@ -0,0 +1,447 @@
...
+                    ∘ (Iso.fun (pathToIso (λ i → (fst A))))
+                    ≡ (fst f))
+          ( λ f g r →
+            funExt ( λ a → transportRefl (fst g (transport refl a))
+                          ∙ cong (fst g) (transportRefl a)
+                          ∙ λ i → (fst (r (~ i))) a)))
+
+  doubleCompPath-filler-refl : {A : Type ℓ} {a b : A} (p : a ≡ b)
+    → p ≡ refl ∙∙ p ∙∙ refl
+  doubleCompPath-filler-refl p = doubleCompPath-filler refl p refl
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:128]: This is actually just `rUnit`

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 6]
```diff
@@ -0,0 +1,447 @@
...
+  PathPCongLemma : {A B : Type ℓ}
+    (f : A → B)
+    (a a' : A)
+    (r : a ≡ a')
+    (b : B)
+    (p : f a ≡ b)
+    (q : f a' ≡ b)
+    → cong f r ≡ p ∙ (sym q)
+    → PathP (λ i → f (r i) ≡ b) p q
+  PathPCongLemma {B = B} f a a' =
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:73]: This is almost exactly `compPathR→PathP` from Foundations.Path. Maybe it can be skipped?

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 7]
```diff
@@ -0,0 +1,447 @@
...
+          ( λ f g r →
+            funExt ( λ a → transportRefl (fst g (transport refl a))
+                          ∙ cong (fst g) (transportRefl a)
+                          ∙ λ i → (fst (r (~ i))) a)))
+
+  doubleCompPath-filler-refl : {A : Type ℓ} {a b : A} (p : a ≡ b)
+    → p ≡ refl ∙∙ p ∙∙ refl
+  doubleCompPath-filler-refl p = doubleCompPath-filler refl p refl
+
+  isContr→isContr→isEquiv : {A B : Type ℓ} (f : A → B)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:130]: `isContr→Iso` in Foundations.Isomorphism

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 8]
```diff
@@ -0,0 +1,447 @@
...
+    ( a , isContr→isProp (b , hB) (f a) b') ,
+    ( λ (a' : fiber f b') → ΣPathP
+              ( isContr→isProp (a , hA) a (fst a')
+              , ( toPathP
+                  ( isProp→isSet
+                    ( isContr→isProp (b , hB))
+                    ( f _) b'
+                    ( transport (λ i → f _ ≡ b') _) (snd a')))))
+
+  isPointedTarget→isEquiv→isEquiv : {A B : Type ℓ} (f : A → B)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:142]: Think we're missing this one. I think it should be put in Foundations.Properties.Equiv.

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 9]
```diff
@@ -0,0 +1,447 @@
...
+  J ( λ b p → (λ q → q ∙ (cong f p))
+             ∘ fst (Ω→ (f , refl))
+             ∘ (λ q → q ∙ sym p)
+             ≡ cong f)
+    ( funExt (λ x → sym (rUnit _)
+                   ∙ sym (doubleCompPath-filler-refl _)
+                   ∙ cong (cong f) (sym (rUnit _))))
+
+private
+  setMapFunctorial : {A B C : Type ℓ} (f : A → B) (g : B → C)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:186]: Oh wow, we really should have this one lol... Could you put it in HITs.SetTruncation.Properties? And maybe just call it `mapFunctorial` to match the naming there better.

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 10]
```diff
@@ -0,0 +1,447 @@
...
+  ( flipΩIso (1 + n))
+  ( ∙PathP→Square
+    ( flipΩPath (1 + n))
+    ( flipΩPath (1 + n))
+    ( (Ω^→ {A = (A , a)} (2 + n)) (f , refl))
+    ( (Ω^→ (1 + n)) (Ω→ (f , refl)))
+    ( PathPΩ^→Ω (1 + n) (f , refl)))
+
+private
+  ∙∙Lemma : {A B : Type ℓ} {f : A → B} {a b : A} (p : a ≡ b)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:265]: This one can be removed. If you just use `sym (rUnit (cong f p))` for this one, it is definitionally equal to `∙∙lCancel refl` when p is `refl`

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 11]
```diff
@@ -0,0 +1,447 @@
...
+   ∘ (fst (πHom {A = (A , a)} {B = (B , f a)} (1 + n) (f , refl)))
+   ∘ (Iso.fun (Iso-πΩ-π (1 + n)))
+   ≡ (fst (πHom n (cong f , refl)))
+πHomπHomCongSquare {A = A} {B = B} {a = a} {n = n} f =
+  πHomπHomCongSquareAux {A = A} {B = B} {a = a} {n = n} f
+  ∙ cong map (Ω+1ΩCongSquare {A = A} {B = B} {a = a} {n = n} f)
+  ∙ cong map (cong (fst ∘ (Ω^→ (1 + n)))
+                   ( funExt∙
+                     ( ∙∙Lemma {f = f}
+                     , JRefl ( λ b p → (refl ∙∙ cong f p ∙∙ refl) ≡ cong f p)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:292]: `funExt∙ ((λ a → sym (rUnit (cong f a)))
              , rUnit (∙∙lCancel refl))`

Comment (aljungstrom) [reply Cubical/Homotopy/WhiteheadsLemma.agda:292]: (no need for `JRefl`)

File: Cubical/Homotopy/WhiteheadsLemma.agda [hunk 12]
```diff
@@ -0,0 +1,447 @@
...
+      ( λ g → g ∘ (Iso.fun (Iso-πΩ-π (1 + n))))
+      ( setMapFunctorial
+        ( fst ((Ω^→ (2 + n)) (f , refl)))
+        ( Iso.fun (flipΩIso (1 + n))))
+    ∙ setMapFunctorial
+      ( Iso.inv (flipΩIso (1 + n)))
+      ( Iso.fun (flipΩIso (1 + n)) ∘ fst ((Ω^→ (2 + n)) (f , refl)))
+
+-- Ω (Ω→ f) ≡ Ω→ (Ω f)
+PathPΩ^→Ω : {A B : Pointed ℓ} (n : ℕ) (f : A →∙ B)
```
Comment (aljungstrom) [inline Cubical/Homotopy/WhiteheadsLemma.agda:209]: In the future we may consider moving some of these properties to Homotopy.Group.Base or something (or maybe a new Properties file?) but let's keep it here for now.

**Review by aljungstrom — COMMENTED** [review]
Looking good:-) My comments are mainly just pointers to stuff already in the library.

File: Cubical/Homotopy/WhiteheadsLemma.agda (hunk 7 above)
Comment (ecavallo) [reply Cubical/Homotopy/WhiteheadsLemma.agda:130]: More precisely `isEquivFromIsContr` in Foundations.Equiv.Properties

**Comment by owen-fool** [comment]
> Looking good:-) My comments are mainly just pointers to stuff already in the library.

Thanks!

**Comment by mortberg** [comment]
Have all comments been resolved? If so I can merge as soon as the CI is finished

**Comment by mortberg** [comment]
@aljungstrom confirmed that all comments are resolved, so I'll merge now
